US08536169B2
Phenylmethyl 4-acetyl-2-morpholinecarboxylate
Phenylmethyl 2-morpholinecarboxylate (450 mg, 2.034 mmol) was dissolved in dichloromethane (30 ml). DIPEA (0.71 ml, 4.07 mmol) and acetic anhydride (0.23 ml, 2.441 mmol) were added and the mixture was stirred under nitrogen at room temperature for 18 hr. The solvent was removed in vacuo, the residue was portioned between dichloromethane (20 ml) and water (20 ml) and separated by hydrophobic frit. The aqueous layer was washed with dichloromethane (2×10 ml) and to the combined organic phases was added saturated sodium bicarbonate solution (20 ml). The phases were separated by hydrophobic frit and the aqueous layer was washed with dichloromethane (2×10 ml). The solvent was removed in vacuo, the residue was dissolved in dichloromethane (˜5 ml) and the residue was purified by flash chromatography (20 g silica, gradient elution, 0-100% EtOAc-Cyclohexane then 0-20% MeOH). The solvent was removed in vacuo to give the title compound (313 mg, 1.19 mmol) as a colourless oil.

reactant | Phenylmethyl 2-morpholinecarboxylate | 2.034 mmol, 450 mg | N1CC(OCC1)C(=O)OCC1=CC=CC=C1 | C12H15NO3
reactant | DIPEA | 4.07 mmol, 0.71 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 2.441 mmol, 0.23 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Phenylmethyl 4-acetyl-2-morpholinecarboxylate | 1.19 mmol, 313 mg | C(C)(=O)N1CC(OCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
